US06197770B1
(2R)-{[4′-Methoxy-(1,1′-biphenyl)-4-yl]-sulfonyl}-amino-(3S)-benzyloxy-5-phenylpent-4-ynoic acid
Methyl (2R)-{[4′-Methoxy-(1,1′-biphenyl)-4-yl]-sulfonyl}-amino-(3S)-benzyl-oxy-5-phenyl-pent-4-ynoate: The starting sulfonamide 65e (927 mg, 1.75 mmol) and 4-methoxyphenylboronic acid (400 mg, 2.63 mmol) are taken up in 25 mL of benzene, 1.5 mL of EtOH and 1.5 mL of water in the presence of Pd(PPh3)4 (61 mg, 0.05 mmol) and 371 mg of Na2CO3 and brought to reflux for 4 hr. The mixture is cooled to room temperature, poured into water, and extracted with methylene chloride. The organic layer is dried over MgSO4, filtered and evaporated. The crude product is purified by silica gel chromatography using 9:1 hexane:EtOAc to give the desired product as a colorless oil.

reactant | Methyl (2R)-{[4′-Methoxy-(1,1′-biphenyl)-4-yl]-sulfonyl}-amino-(3S)-benzyl-oxy-5-phenyl-pent-4-ynoate | COC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)[C@H]([C@@](C(=O)OC)(OCC1=CC=CC=C1)N)C#CC1=CC=CC=C1 | C32H29NO6S
reactant | 4-methoxyphenylboronic acid | 2.63 mmol, 400 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | EtOH | 1.5 mL | CCO | C2H6O
reactant | Na2CO3 | 371 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | benzene | 25 mL | C1=CC=CC=C1 | C6H6
catalyst | Pd(PPh3)4 | 0.05 mmol, 61 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 1.5 mL | O | H2O
product | (2R)-{[4′-Methoxy-(1,1′-biphenyl)-4-yl]-sulfonyl}-amino-(3S)-benzyloxy-5-phenylpent-4-ynoic acid | COC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)[C@H]([C@@](C(=O)O)(OCC1=CC=CC=C1)N)C#CC1=CC=CC=C1 | C31H27NO6S
